US08211919B2
To a solution of methyl (2S)-2-phenylamino-3-tert-butoxypropanoate (230 mg) in methanol (2.30 mL) was added 1N sodium hydroxide aqueous solution (2.75 mL) and the mixture was stirred at ambient temperature for 2 hours. The resulting solution was acidified with 1N HCl (2.7 mL) to pH=4 and diluted with water (2.7 mL). The mixture was stirred at 0° C. for 20 minutes and the precipitate was collected by filtration followed by washing with water (2.7 mL) to give (2S)-2-phenylamino-3-tert-butoxypropanoic acid (100 mg) as an off-white solid.

reactant | methyl (2S)-2-phenylamino-3-tert-butoxypropanoate | 230 mg | C1(=CC=CC=C1)N[C@H](C(=O)OC)COC(C)(C)C | C14H21NO3
reactant | sodium hydroxide | 1N, 2.75 mL | [OH-].[Na+]
reactant | HCl | 1N, 2.7 mL | Cl | ClH
solvent | methanol | 2.30 mL | CO | CH4O
solvent | water | 2.7 mL | O | H2O
product | (2S)-2-phenylamino-3-tert-butoxypropanoic acid | 100 mg | C1(=CC=CC=C1)N[C@H](C(=O)O)COC(C)(C)C | C13H19NO3
